US07691282B2
Preparation of CF3CFHCF2CH2OCF2CFHOCF3
Hexafluorobutanol, CF3CFHCF2CH2OH (65.3 g, 0.34 mol), prepared essentially as described in Example 2) was combined with potassium carbonate (9.9 g, 0.072 mol) and 133 g of acetonitrile in a 600 mL Parr reactor. The temperature of the reactor was raised to 45° C. and CF3OCF═CF2 (65.6 g, 0.39 mol) added as a gas over about two hours. The resulting reaction mixture was stirred for about 18 hours at 45° C. The reactor was cooled and the contents of the reactor filtered to remove the potassium carbonate. The resulting product-containing filtrate was distilled using a concentric tube column, with the product cut boiling at 115-119° C. The product structure was confirmed by GCMS.

reactant | Hexafluorobutanol | FC(C(C(O)(F)F)(F)F)(C)F | C4H4F6O
reactant | CF3CFHCF2CH2OH | 0.34 mol, 65.3 g | C(F)(F)(F)C(F)C(F)(F)CO | C4H4F6O
reactant | potassium carbonate | 0.072 mol, 9.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | CF3OCF═CF2 | 0.39 mol, 65.6 g | C(F)(F)(F)OC(F)=C(F)F | C3F6O
solvent | acetonitrile | 133 g | C(C)#N | C2H3N
product | CF3CFHCF2CH2OCF2CFHOCF3 | C(F)(F)(F)C(F)C(F)(F)COC(F)(F)C(F)OC(F)(F)F | C7H4F12O2
